Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
transient aphasia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI: 
___ with PMH of cardiac cath s/p 2 stents, NSTEMI, HTN, NIDDM 
who
presented to the ED as a transfer from ___ after 2 episodes
of aphasia.

Patient states that she was in her usual state of health until
day of presentation.  She states that around 12:30 ___, she had 
an
episode where she was having word finding difficulties.  She
states that she was able to think of the words; however the 
words
just will not come out properly.  For example, instead of saying
"because", she was a "broccoli".  This first episode lasted 
about
15 minutes.  She states that during this time, she was having
difficulty writing email, because she just could not spell her
words.  She was also having trouble typing on the keyboard.  She
also cannot figure out how to print something.  These are
typically tasks that she would not have any trouble with.  She
denied other symptoms, no new weakness, numbness or tingling,
changes in vision.  However, around 3:15 ___, she had another
episode of word finding difficulty.  She thinks that the second
episode lasted longer, about 20 minutes or so.  This was when 
she
went to the hospital in ___.  Patient states that she had 
run
out of her home aspirin several days ago, and not been taking
aspirin during this time.

Per report, at ___, she had trouble naming, and her
speech was not fluent. NIHSS 2, for language.  Labs showed INR
1.1,  troponin 0.07.  CTA head and neck was read as 'no
occlusion, significant stenosis, or dissection.  No significant
stenosis right or left internal carotid arteries.  Mild calcific
plaque formation in both carotid bulbs.  Patent vertebral
arteries bilaterally.'  Per report from outside hospital, her
episode of aphasia lasted about 25 minutes, and then afterwards
had been stuttering and intermittent.  She was given aspirin 325
prior to transfer.  She was then transferred here for further
management.
 
 
Past Medical History:
PMH:
Cardiac cath with 2 stents
NSTEMI
HTN
Laminectomy L4/L5
Cholecystectomy ___
Triple arthrodesis left foot
Lumpectomy right breast
Bilateral carpal tunnel release
Bilateral cataract surgery
 
Social History:
___
Family History:
FAMILY HISTORY:
Mother had ___
 
Physical Exam:
PHYSICAL EXAMINATION: 
Vitals: T: 98.6 BP: 130/80 HR: 81 RR: 17 SaO2: 95%
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted
Pulmonary: Normal work of breathing.
Cardiac: Warm, well-perfused.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, Able to relate history without 
difficulty.
Attentive, Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects on ___ stroke
card.  Able to describe cookie picture.  Able to read without
difficulty. No dysarthria. Able to follow both midline and
appendicular commands. 

-Cranial Nerves:
II, III, IV, VI:  L pupil 4->2 R pupil 3->2 both postsurgical.
EOMI without nystagmus. Normal saccades. VFF to confrontation. 

V: Facial sensation intact to light touch.

VII: R NLFF, present at bedside, her face looks her baseline
VIII: Hearing intact to conversation.

IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline 

-Motor: No pronator drift. No adventitious movements, such as
tremor or asterixis noted.
  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
L    5    5    5    5    5    5   4+    5    5   5    5    
R    5    5    5    5    5-   5-  4+    5    5   5    5    
Patient states that she has bilateral leg weakness at baseline. 
She states that she has had mild right hand weakness ever since
her carpal tunnel surgery earlier ___.

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No extinction to DSS. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   3     2      3      3     1
R   3     2      3      3     1 

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF bilaterally.

-Gait: Deferred 

Discharge EXAM
=================

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted
Pulmonary: Normal work of breathing.
Cardiac: Warm, well-perfused.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, Able to relate history without 
difficulty.
Attentive, Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects on ___ stroke
card.  Able to describe cookie picture.  Able to read without
difficulty. No dysarthria. Able to follow both midline and
appendicular commands. 

-Cranial Nerves:
II, III, IV, VI:  L pupil 4->2 R pupil 3->2 both postsurgical.
EOMI without nystagmus. Normal saccades. VFF to confrontation. 

V: Facial sensation intact to light touch.

VII: R NLFF, present at bedside, her face looks her baseline
VIII: Hearing intact to conversation.

IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline 

-Motor: No pronator drift. No adventitious movements, such as
tremor or asterixis noted.
  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
L    5    5    5    5    5    5   4+    5    5   5    5    
R    5    5    5    5    5    5   4+    5    5   5    5    

-Sensory: No deficits to light touch
-Reflexes:
Not tested

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF bilaterally.

-Gait: Deferred 

 
Pertinent Results:
Admission Labs
===============

___ 07:43PM BLOOD WBC-6.2 RBC-3.63* Hgb-9.8* Hct-32.3* 
MCV-89 MCH-27.0 MCHC-30.3* RDW-14.6 RDWSD-46.7* Plt ___
___ 07:43PM BLOOD Neuts-64.6 ___ Monos-7.4 Eos-3.7 
Baso-0.5 Im ___ AbsNeut-4.00 AbsLymp-1.46 AbsMono-0.46 
AbsEos-0.23 AbsBaso-0.03
___ 07:43PM BLOOD ___ PTT-30.4 ___
___ 07:43PM BLOOD Plt ___
___ 07:43PM BLOOD Glucose-108* UreaN-22* Creat-0.8 Na-140 
K-4.4 Cl-106 HCO3-23 AnGap-11
___ 08:30PM BLOOD ALT-26 AST-22 AlkPhos-84 TotBili-0.3
___ 08:30PM BLOOD cTropnT-0.01
___ 08:30PM BLOOD Lipase-43
___ 08:30PM BLOOD Albumin-3.5 Calcium-9.0 Phos-4.2 Mg-1.5*
___ 07:04AM BLOOD %HbA1c-5.2 eAG-103
___ 07:04AM BLOOD Triglyc-173* HDL-46 CHOL/HD-2.4 
LDLcalc-31
___ 07:04AM BLOOD TSH-<0.01*
___ 07:04AM BLOOD Free T4-1.7
___ 08:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

IMAGING
============
Radiology ReportMR HEAD W & W/O CONTRASTStudy Date of 
___ 9:58 AM

 
FINDINGS: 
 
There are several punctate foci of increased signal intensity on 
DWI
bilaterally, in the left posterior and superior frontal lobe, 
right superior
frontal lobe, and left parietal lobe (5; 19, 23, 24, 27).  The 
foci at the
left parietal lobe and right superior frontal lobe correspond 
with low signal
on ADC and high signal on FLAIR, indicating that these lesions 
are acute to
early subacute infarcts.  In addition, there is a 
periventricular chronic
lacunar infarct in the left posterior frontal lobe (11; 17).  
There are also
multiple foci of decreased signal intensity on GRE in bilateral 
parietal lobes
and left posterior frontal lobe that are hypointense on T1, T2, 
and FLAIR
which could indicate chronic microhemorrhages or calcium 
deposits (10; 19). 
There is no evidence of mass, mass effect, or midline shift.
 
 There are multiple foci of subcortical and periventricular 
hyperintensities
on T2 and FLAIR which are nonspecific and likely represent 
chronic small
vessel ischemic disease.  Prominent ventricles and sulci are 
associated with
age related involutional change.  Major flow voids are 
preserved.
 
The patient is status post bilateral lens replacements.
 
There is no abnormal enhancement after contrast administration.
 
IMPRESSION:
 
 
1. Multiple scattered foci of acute to early subacute infarcts 
in the left
posterior and superior frontal lobe, right superior frontal 
lobe, and left
parietal lobe.  This pattern suggests a proximal embolic source.
2. There is no evidence of intracranial mass.
3. Possible chronic microhemorrhages in the bilateral parietal 
lobes and left
posterior frontal lobe.
4. Chronic infarct in the left posterior frontal lobe.  Chronic 
small vessel
ischemic disease.

Transthoracic Echocardiogram ___ 
___ 11:18

IMPRESSION: No structural cardiac source of embolism (e.g.patent 
foramen ovale/atrial septaldefect, intracardiac thrombus, or 
vegetation) seen. Normal left ventricular wall thickness 
andcavity size with mild regional systolic dysfunction c/w CAD 
in an LAD distribution vs. Takotsubocardiomyopathy. Restrictive 
filling pattern. Increased PCWP. Normal right ventricular cavity 
sizeand systolic function. Mild mitral regurgitation. Mild 
tricuspid regurgitation. Trace aorticregurgitation. Moderate 
pulmonary artery systolic hypertension.

 
Brief Hospital Course:
This is a ___ year old female with a pmhx of CAD w/ cardiac cath 
s/p 2 stents, NSTEMI, HTN, NIDDM who presented to the ED as a 
transfer from ___ after 2 episodes of aphasia. The episodes 
were transient, but on exam she was noted to have some mild 
paraphasic errors. She underwent MRI revealing miniscule 
punctate scattered foci of acute to early subacute infarcts in 
the left posterior and superior frontal lobe, right superior 
frontal lobe, and left parietal lobe. This pattern suggests a 
proximal embolic source. She had a TTE revealing EF of 49% RWMA 
in the LAD territory without evidence of thrombus. A1c was 5.3. 
LDL was 25. TSH was less that 0.01 and T4 was 1.7. This should 
be followed up. No evidence of afib on telemetry. The patient 
will be discharged on ziopatch for rhythm monitoring and will be 
continued on her DAPT with asa/brilinta. She will continue on 
her atorvastatin.

TI
----
[] recommend repeating thyroid function studies (TSH <0.01, free 
T4 1.7 on admission)
[] ziopatch
[] anemia workup
[] f/u with patient's cardiologist to review echo findings

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes
2. DVT Prophylaxis administered? (x) Yes
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes Aspirin, Brillanta
4. LDL documented? (x) Yes (LDL = 25)
5. Intensive statin therapy administered? On atorvastatin 20, 
LDL 25
6. Smoking cessation counseling given? (x) non-smoker
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes
9. Discharged on statin therapy? (x) Yes
10. Discharged on antithrombotic therapy? (x) Yes Aspirin, 
Brillanta indefinitely
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) No 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Metoprolol Succinate XL 100 mg PO DAILY 
2. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
3. TiCAGRELOR 90 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. MetFORMIN (Glucophage) 1000 mg PO DAILY 
6. Tolterodine 4 mg PO DAILY 
7. Atorvastatin 20 mg PO QPM 
8. Vitamin D ___ UNIT PO 1X/WEEK (WE) 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 20 mg PO QPM  
3.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
4.  MetFORMIN (Glucophage) 1000 mg PO DAILY  
5.  Metoprolol Succinate XL 100 mg PO DAILY  
6.  TiCAGRELOR 90 mg PO DAILY  
7.  Tolterodine 4 mg PO DAILY  
8.  Vitamin D ___ UNIT PO 1X/WEEK (WE)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
ACUTE ISCHEMIC STROKE

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were hospitalized due to symptoms of trouble finding the 
right words resulting from an ACUTE ISCHEMIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
Hypertension
Hyperlipidemia
Diabetes

We are changing your medications as follows:
You will continue on aspirin and brilinta (You must take them 
daily!!)
You will continue on atorvastatin
You will have a ziopatch 

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___